US09428510B2
0.288 ml (3.87 mmol) of thionyl chloride and a drop of DMF are added successively to 0.450 g (1.29 mmol) of 2-chloro-5-(N-(3,5-difluorophenyl)sulfamoyl)nicotinic acid in 5 ml of anhydrous toluene. The mixture is placed under stirring, at reflux of toluene, for 2 hours. The acid chloride reaction mixture is then added drop by drop to an iced solution, under stirring, of 4.5 ml of 25% ammonium hydroxide. A release of gas is observed. The reaction medium is left under stirring at room temperature for 30 minutes. The reaction medium is extracted several times with ethyl acetate. The combined organic phases are dried on anhydrous sodium sulfate and then concentrated. 0.315 g of 2-chloro-5-(N-(3,5-difluorophenyl)sulfamoyl)nicotinamide in the form of a light brown solid is obtained (yield=72%).

reactant | thionyl chloride | 3.87 mmol, 0.288 ml | S(=O)(Cl)Cl | Cl2OS
reactant | DMF | CN(C)C=O | C3H7NO
reactant | 2-chloro-5-(N-(3,5-difluorophenyl)sulfamoyl)nicotinic acid | 1.29 mmol, 0.450 g | ClC1=C(C(=O)O)C=C(C=N1)S(NC1=CC(=CC(=C1)F)F)(=O)=O | C12H7ClF2N2O4S
reactant | ammonium hydroxide | 4.5 ml | [OH-].[NH4+]
solvent | toluene | 5 ml | C1(=CC=CC=C1)C | C7H8
product | 2-chloro-5-(N-(3,5-difluorophenyl)sulfamoyl)nicotinamide | 0.315 g, yield=72% | ClC1=C(C(=O)N)C=C(C=N1)S(NC1=CC(=CC(=C1)F)F)(=O)=O | C12H8ClF2N3O3S
